US05656758
4-methyl-1-(3-oxoindan-1-carbonyl)-2-(pyrrolidin-1-ylmethyl)piperazine dihydrochloride
The procedure described in Example 24 was repeated, but using 3.21 g of 1-methyl-3-(pyrrolidin-1-ylmethyl)piperidine trihydrochloride, 6.9 ml of triethylamine and 4.5 g of 3-oxoindan-1-carbonyl chloride, to afford 1.45 g of the title compound, melting at 252°-255° C. (dec.).

reactant | 1-methyl-3-(pyrrolidin-1-ylmethyl)piperidine trihydrochloride | 3.21 g | Cl.Cl.Cl.CN1CC(CCC1)CN1CCCC1
reactant | 3-oxoindan-1-carbonyl chloride | 4.5 g | O=C1CC(C2=CC=CC=C12)C(=O)Cl | C10H7ClO2
reactant | triethylamine | 6.9 ml | C(C)N(CC)CC | C6H15N
product | 4-methyl-1-(3-oxoindan-1-carbonyl)-2-(pyrrolidin-1-ylmethyl)piperazine dihydrochloride | 1.45 g | Cl.Cl.CN1CC(N(CC1)C(=O)C1CC(C2=CC=CC=C12)=O)CN1CCCC1 | InChI=1S/C20H27N3O2.2ClH/c1-21-10-11-23(15(13-21)14-22-8-4-5-9-22)20(25)18-12-19(24)17-7-3-2-6-16(17)18;;/h2-3,6-7,15,18H,4-5,8-14H2,1H3;2*1H
